US04452851
To a solution of tert-butyl 2-methoxycarbonylmethoxyimino-3-oxobutyrate (syn isomer) (10 g) in glacial acetic acid (5 ml) was added 30% hydrobromic acid in acetic acid (10 ml) at ambient temperature with stirring. The reaction mixture was stirred at 40° C. for 3 hours. The resultant solution was concentrated under reduced pressure and the residual oil was dissolved into ethyl acetate (100 ml). The ethyl acetate layer was washed with a saturated aqueous solution of sodium chloride four times and dried over magnesium sulfate. The solvent was evaporated under reduced pressure to give a crude oil (8.6 g). The oil was dissolved in methylene chloride (100 ml). To the solution was added potassium carbonate (1.87 g) and the suspension was stirred at ambient temperature for 30 minutes. The solution was diluted with n-hexane (100 ml.) The solvent was decanted and the residual glassy mass was dissolved in ethyl acetate and 10% hydrochloric acid. The separated organic layer was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. The solvent was concentrated under reduced pressure to give 2-methoxycarbonylmethoxyimino-3-oxobutyric acid (syn isomer) (4.0 g) as an oil.

reactant | tert-butyl 2-methoxycarbonylmethoxyimino-3-oxobutyrate | 10 g | COC(=O)CON=C(C(=O)OC(C)(C)C)C(C)=O | C11H17NO6
reactant | hydrobromic acid | Br | BrH
reactant | potassium carbonate | 1.87 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | n-hexane | 100 ml | CCCCCC | C6H14
product | 2-methoxycarbonylmethoxyimino-3-oxobutyric acid | 4.0 g | COC(=O)CON=C(C(=O)O)C(C)=O | C7H9NO6
